* source CMOS
M_M1         N000402 N00174 N00178 N00178 MbreakP           
M_M2         N000402 N00174 0 0 MbreakN           
V_V1         N00178 0 5Vdc
V_V2         N00174 0 0Vdc
