* source NAND
M_M1         N00310 N00324 N00296 N00296 MbreakP           
M_M2         N00310 N00348 N00296 N00296 MbreakP           
M_M3         N00310 N00324 N000870 N000870 MbreakN           
M_M4         N000870 N00348 0 0 MbreakN           
V_V1         N00296 0 5Vdc
V_V2         N00324 0  
+PULSE 0 0 0 0 0 0 0
V_V3         N00348 0  
+PULSE 1 1 0 0 0 0 0
