* source NMOS
M_M1         N00155 N00169 N00162 N00162 MbreakN           
V_V1         N00155 0 0Vdc
V_V2         N00169 0 0Vdc
V_V3         N00162 0 0Vdc
