* source NOR
M_M1         N000402 N00347 N00310 N00310 MbreakP           
M_M2         N00317 N00381 N000402 N000402 MbreakP           
M_M4         N00317 N00381 0 0 MbreakN           
M_M5         N00317 N00347 0 0 MbreakN           
V_V1         N00310 0 5Vdc
V_V2         N00347 0  
+PULSE 4.8 4.8 0 0 0 0 0
V_V3         N00381 0  
+PULSE 5 5 0 0 0 0 0
