* source PMOS
M_M1         N00142 N00156 N00149 N00149 MbreakP           
V_V1         N00142 0 0Vdc
V_V2         N00149 0 0Vdc
V_V3         N00156 0 0Vdc
